US09079916B2
To 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide (72 mg, 0.2 mmol) in dioxane (0.400 mL), XANTPHOS (2.3 mg, 0.004 mmol), KtBuO (31 mg, 0.28 mmol), (DPPF)2PdCl2.CH2Cl2 (3.00 mg, 0.004 mmol), and 2-methoxyaniline (30 mg, 0.24 mmol), and Et3N (0.200 mL) were added. The reaction mixture was heated to 150° C. in a microwave reactor for 10 minutes. The resulting material was cooled to room temperature. The crude product was purified by column chromatography on silica gel to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxyphenylamino)pyridin-3-yl)cyclopropanecarboxamide which was then treated with HCl in MeOH to form the HCl salt (2.3 mg, 0.0053 mmol, 2.7%). ESI-MS m/z calc. 403.2. Found; 404.5 (M+1)+ Retention time 2.29 minutes.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide | 0.2 mmol, 72 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)Br | C16H13BrN2O3
reactant | XANTPHOS | 0.004 mmol, 2.3 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | CH2Cl2 | 0.004 mmol, 3.00 mg | C(Cl)Cl | CH2Cl2
reactant | 2-methoxyaniline | 0.24 mmol, 30 mg | COC1=C(N)C=CC=C1 | C7H9NO
solvent | dioxane | 0.400 mL | O1CCOCC1 | C4H8O2
solvent | Et3N | 0.200 mL | CCN(CC)CC | C6H15N
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxyphenylamino)pyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)NC2=C(C=CC=C2)OC | C23H21N3O4
